US09428465B2
2,4-dioxo-N-(4-phenylbutyl)pyrimidine-1-carboxamide
Uracil (0.10 g, 0.89 mmol) was dissolved in dry pyridine (4.4 mL). DMAP (0.12 g, 0.96 mmol) was added and the reaction mixture was stirred under nitrogen atmosphere at room temperature for 30 min. 4-Phenyl butyl isocyanate (0.27 mL, 1.60 mmol, 1.8 equiv) was then added and the resulting mixture was stirred for 12 hrs. The solvent was evaporated under reduced pressure and the crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc from 50:50 to 30:70) to afford the title compound (0.10 g, 59%) as white powder. 1H NMR (400 MHz, CDCl3): δ 1.59-1.82 (m, 4H), 2.66 (t, J=7.2 Hz, 2H), 3.29-3.60 (m, 2H), 5.89 (d, J=8.5 Hz, 1H), 7.11-7.22 (m, 3H), 723-734 (m, 2H), 8.41 (d, J=8, 5 Hz, 1H), 8.66 (s, 1H), 9.06 (t, J=5.7 Hz, 1H). 13C NMR (101 MHz, CDCl3): δ 28.69, 28.92, 35.56, 41.23, 77.16, 104.01, 126.06, 128.53, 139.08, 141.95, 149.84, 151.51, 162.30 MS (ESI) m/z: 310 [M-N]−.

reactant | Uracil | 0.89 mmol, 0.10 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | 4-Phenyl butyl isocyanate | 1.60 mmol, 0.27 mL, 1.8 equiv | C1(=CC=CC=C1)CCCCN=C=O | C11H13NO
solvent | pyridine | 4.4 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.96 mmol, 0.12 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,4-dioxo-N-(4-phenylbutyl)pyrimidine-1-carboxamide | 0.10 g, 59% | O=C1N(C=CC(N1)=O)C(=O)NCCCCC1=CC=CC=C1 | C15H17N3O3
